US04710573
4-(1-Benzoyl-1H-indazol-3-yl)piperidine-1-carbonitrile
A sample of 8.4 g of 1-benzoyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride was converted to its free base and the base was dissolved in 135 ml of chloroform. The solution was stirred and 4.0 g of potassium carbonate was added followed by 2.7 g of cyanogen bromide. The reaction mixture was stirred under reflux for 16 hrs. The mixture was filtered, and the solvent was removed in vacuo. The mixture was chromatographed on a high-pressure column chromatography apparatus (silica gel), eluting with 0.3% methanol/dichloromethane. Evaporation of the appropriate fraction followed by recrystallization from toluene hexane yielded 2.2 g (28%) of the product, mp 144°-146° C.

reactant | 1-benzoyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 8.4 g | Cl.C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 2.7 g | N#CBr | CBrN
solvent | chloroform | 135 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(1-Benzoyl-1H-indazol-3-yl)piperidine-1-carbonitrile | 2.2 g, 28% | C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C#N | C20H18N4O
